Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]([H:7])([H:8])[H:9].[H:1][C:2][O:3][C:4]([H:5])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.07858671847
[H:1][O:2][C@:3]1([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C@:10]1([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@@:10]([C:7]([H:8])[H:9])([H:11])[C:12]([H:13])([H:14])[H:15],-0.170606658429
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][H:7]>>[H:4].[O:1]=[C:2]=[C:3][O:5][C:6][H:7],4.89535020219
[C:1]=[C:2]([C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([C:3]([H:4])[C:5]#[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8],3.88257315595
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-1.69977535997
[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.7654434416
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.10928426304
[H:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:7]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.77250276621
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12].[H:13],3.97703345465
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][H:7]>>[C:3][O:4][C:5]#[C:6][H:7].[H:1][C:2],8.816657925800001
[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.64163633889
[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6][H:7]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6][H:7],-4.74417290903
[C:3][H:4].[O:1]=[C:2]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3][H:4])[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.96894905764
[C:1]#[C:2].[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-7.62858004471
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10].[O:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12],-5.27838310651
[O:1][C@:2]([H:3])([C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[C:8]([H:9])([H:10])=[C:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7],-2.3008779234
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:6],4.8068567170300005
[C:1]#[C:2].[O:3]=[C:4]([H:5])[C:6]#[C:7]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]#[C:7],-3.6221653584699993
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11].[O:1]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11],-2.80378478106
[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3]([H:4])[H:5],3.5475820116900003
[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3](=[O:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2],0.531686733221
[H:6].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.6801299531799998
[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10]>>[H:5].[O:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[H:10],1.79050357072
[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:4].[O:1]=[C:2]([H:3])[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],1.29012559561
[O:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])[H:7].[O:1][O:2][C:3](=[C:4])[C:8]([H:9])([H:10])[H:11],7.974217338580001
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[O:10][H:11].[H:9],3.4703096703
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([O:7][H:8])=[C:9][H:10].[H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-5.15487078869
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],3.88554339391
[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][C:4]1=[C:5]([H:6])[C:7]1[C:8]([H:9])([H:10])[H:11],0.38112348691
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7].[H:8]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8],-5.59604093515
